US04127720
3,4-Dihydro-7-methoxy-1-methylthioisoquinolinium fluorosulfonate (10.0 g., 0.0362 mole) was added to ethanol (100 ml.) which was saturated with ammonia in a steel bomb. The stirred mixture was heated on a steam bath for 2 hours. The mixture was combined with material from four similar runs andd flash evaporated to dryness. The residue was partitioned between 5N NaOH (300 ml.) and methylene chloride. The organic layer was washed with water (2×) and dried with sodium sulfate. The solid obtained after removal of the methylene chloride was recrystallized from benzene to give 23 g. (72% yield) of 1-amino-3,4-dihydro-7-methoxyisoquinoline, m.p. 114°-117.5°. Recrystallization from ethyl acetate afforded the analytical sample, m.p. 117.5°-119.5°.

reactant | 3,4-Dihydro-7-methoxy-1-methylthioisoquinolinium fluorosulfonate | 0.0362 mole, 10.0 g | FS(=O)(=O)[O-].COC1=CC=C2CC[NH+]=C(C2=C1)SC
reactant | ammonia | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-amino-3,4-dihydro-7-methoxyisoquinoline | 72% yield | NC1=NCCC2=CC=C(C=C12)OC | C10H12N2O
